M287112369 n1 vinp ntail 0 nch W=2u L=0.18u
M973810133 vout vinn ntail 0 nch W=2u L=0.18u
M423265033 ntail vbias_n 0 0 nch W=1u L=0.5u
M909080858 vout n1 VDD VDD pch W=4u L=0.18u
M349291996 n1 n1 VDD VDD pch W=4u L=0.18u
VDD VDD 0 1.8
C795271398 vout 0 1p

